US07459472B2
[2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester (96 mg,) was prepared from 2-(R)-tert-butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid pentafluorophenyl ester (140 mg, 0.25 mmol) and N-hydroxy-acetamidine (37 mg, 0.5 mmol) following the general procedure O.

reactant | 2-(R)-tert-butoxycarbonylamino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid pentafluorophenyl ester | 0.25 mmol, 140 mg | FC1=C(C(=C(C(=C1OC([C@@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)NC(=O)OC(C)(C)C)=O)F)F)F)F | C26H20ClF6NO4
reactant | N-hydroxy-acetamidine | 0.5 mmol, 37 mg | ONC(C)=N | C2H6N2O
product | [2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | 96 mg | C(C)(C)(C)OC(N[C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)C1=NC(=NO1)C)=O | C22H23ClFN3O3
